US03974166
3.6 g. (0.02 mol) of 2,5,6-trichloropyridine are dissolved in a mixture of 20 ml of 100% strength fuming nitric acid and 16 ml of concentrated sulphuric acid and are then heated at 100°C in an oil bath for 12 hours. After cooling to approx. 20°C, the reaction mixture is poured onto ice. The crude product is produced in the form of slightly yellowish crystals, which are filtered off with suction, washed with water and dried at 30°C in vacuo over KOH. 3 g (66.7% of theory) of 2,5,6-trichloro-3-nitropyridine are obtained in the form of crystals which, after sublimation at 30° - 40°C/12 mm Hg. melt at 68° - 70°C.

reactant | 2,5,6-trichloropyridine | 0.02 mol | ClC1=NC(=C(C=C1)Cl)Cl | C5H2Cl3N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
product | 2,5,6-trichloro-3-nitropyridine | 3 g, 66.7% | ClC1=NC(=C(C=C1[N+](=O)[O-])Cl)Cl | C5HCl3N2O2
